US04735885
Synthesis of 1-(1-butyl)-3-cyclohexylbarbituric acid
A solution was prepared by adding 15.87 gm (0.080 mole) of 1-(1-butyl)-3-cyclohexylurea and 8.33 gm (0.080 mole) of malonic acid to 35 mL of reagent grade acetic acid in a 250 mL 3-neck, round bottom flask equipped with a thermometer, pressure equalizing dropping funnel capped by a drying tube, nitrogen inlet and magnetic stirrer. The stirred mixture was gradually heated to 60° C. in a silicone oil bath. All of the solid dissolved before the temperature reached 60° C. A total of 32 mL of acetic anhydride was added to the dropping funnel and slowly (over a period of about 45 min.) dropped into the stirred reaction flask. The temperature was gradually increased to approximately 90° C. for 7 hours, then allowed to cool to room temperature and stand overnight.

reactant | 1-(1-butyl)-3-cyclohexylurea | 0.080 mole, 15.87 gm | C(CCC)NC(=O)NC1CCCCC1 | C11H22N2O
reactant | malonic acid | 0.080 mole, 8.33 gm | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic anhydride | 32 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(1-butyl)-3-cyclohexylbarbituric acid | C(CCC)N1C(=O)N(C(=O)CC1=O)C1CCCCC1 | C14H22N2O3
